US05153210
A suspension of 2-[4-[2 [(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]-5-benzyloxy-4H-pyran-4-one (1.0 g) in 33% ethanolic methylamine solution (15 ml), was heated to 120° in a sealed vessel for 18 hours. The solvent was evaporated in vacuo and the residue purified by column chromatography on silica using chloroform, then 10% methanol:chloroform as eluent. The resulting gum was dissolved in methanol and 2M hydrochloric acid was added dropwise to bring the pH to 1.5-2.0. The solution was then hydrogenated at room temperature and pressure over 10% palladium on charcoal. After filtration and evaporation of solvent in vacuo the residue was treated with 1.2M sodium hydrogen carbonate solution (5 ml), and extracted with ethyl acetate (3×50 ml), and dried (MgSO4). After filtration and evaporation of solvent the residue was triturated with acetone to give 2-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-1-methyl-1H-pyrid-4-one (0.7 g) as a (40:60) mixture of diastereoisomers.

reactant | 2-[4-[2 [(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]-5-benzyloxy-4H-pyran-4-one | 1.0 g | ClC=1C=C(C(CNC(CC2=CC=C(OCC=3OC=C(C(C3)=O)OCC3=CC=CC=C3)C=C2)C)O)C=CC1 | C30H30ClNO5
reactant | methylamine | 15 ml | CN | CH5N
product | 2-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-1-methyl-1H-pyrid-4-one | 0.7 g | ClC=1C=C(C(CNC(CC2=CC=C(OCC=3N(C=C(C(C3)=O)O)C)C=C2)C)O)C=CC1 | C24H27ClN2O4
